US07399867B2
N,N-Dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide
Place 4-bromo-N,N-dimethyl-benzenesulfonamide (1.00 g, 3.77 mmol); bis(pinacolato)diboron (1.15 g, 4.53 mmol), PdCl2(dppf)2−CH2Cl2 (97 mg, 0.13 mmol), potassium acetate (1.11 g, 11.32 mmol) and anhydrous dimethyl sulfoxide (12 mL) in a round bottom flask. Put the reaction in an oil bath and stir at 90° C. for 8 hours. Cool the purple colored reaction to ambient temperature, quench with ample water and extract the resulting aqueous mixture into dichloromethane. Wash the combined extracts with water and brine; then dry (sodium sulfate) and evaporate the extracts in vacuo. Purify the resulting solid on a flash column (silica gel; 2%-5% gradient of EtOAc in CH2Cl2, load material in CH2Cl2) to provide 900 mg of the title compound (77%).

reactant | 4-bromo-N,N-dimethyl-benzenesulfonamide | 3.77 mmol, 1.00 g | BrC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H10BrNO2S
reactant | bis(pinacolato)diboron | 4.53 mmol, 1.15 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 11.32 mmol, 1.11 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 CH2Cl2 | 0.13 mmol, 97 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dimethyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
product | N,N-Dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | 900 mg, 77% | CN(S(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H22BNO4S
